US07186724B2
7-Methoxy-3-piperidin-4-yl-benzo[d]isoxazole hydrochloride (MDL 831587A).
A mixture of 4-(7-Methoxy-benzo[d]isoxazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester (3.00 g, 9.03 mmol), HCl (35 mL of a 1 M ether solution, 35.0 mmol), and methanol (25 mL) was stirred at room temperature under nitrogen for 18 h. Ether (75 mL) was added, the mixture stirred at room temperature for 15 min, and the product collected by filtration to afford 2.37 g (98%) of the desired product as a white powder, mp: >250° C.

reactant | 4-(7-Methoxy-benzo[d]isoxazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | 9.03 mmol, 3.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NOC2=C1C=CC=C2OC | C18H24N2O4
reactant | HCl | Cl | ClH
reactant | methanol | 25 mL | CO | CH4O
solvent | Ether | 75 mL | CCOCC | C4H10O
solvent | ether | 1 M | CCOCC | C4H10O
product | 7-Methoxy-3-piperidin-4-yl-benzo[d]isoxazole hydrochloride | 2.37 g, 98% | Cl.COC1=CC=CC=2C(=NOC21)C2CCNCC2 | InChI=1S/C13H16N2O2.ClH/c1-16-11-4-2-3-10-12(15-17-13(10)11)9-5-7-14-8-6-9;/h2-4,9,14H,5-8H2,1H3;1H
